US07217794B2
2-Thiouracil (33.3 g, 0.26 mol) was dissolved in an aqueous solution of sodium hydroxide (20.8 g in 183 mL of water; ˜0.52 mol). The mixture was placed in an ice bath until the internal reaction temperature was 0° C. Methyl iodide (18.5 mL, 0.29 mol) was slowly added. The resulting reaction mixture was allowed to return to room temperature and then stirred for 16 hours. The pale yellow solution was cooled to 0° C. and acidified with glacial acetic acid. The white precipitate that formed was collected by vacuum filtration, washed with cold water (3×150 mL), and dried to afford 2-methylsulfanyl-3H-pyrimidin-4-one as a white powder. (37.4 g, 98%).

reactant | 2-Thiouracil | 0.26 mol, 33.3 g | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | sodium hydroxide | ˜0.52 mol, 183 mL, 20.8 g | [OH-].[Na+]
reactant | Methyl iodide | 0.29 mol, 18.5 mL | CI | CH3I
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methylsulfanyl-3H-pyrimidin-4-one | CSC1=NC=CC(N1)=O | C5H6N2OS
